US04214093
In 50 ml of ethyl acetate was dissolved 5 g of 5-nitro-1,2,3,4-tetrahydro-1-naphthoic acid. After addition of 4.6 g of phosphorus pentachloride to the resulting solution at room temperature, the mixture was stirred for 30 minutes. The precipitates were removed by filtration and the filtrate was freed from ethyl acetate by distillation under reduced pressure. The residue was dissolved in 100 ml of fresh ethyl acetate. To the solution were added, with cooling, 4.1 g of p-ethoxycarbonylphenol and 2.5 g of triethylamine. The mixture was stirred for 24 hours. The reaction mixture was washed with a cold 5% sodium hydroxide solution and freed from the solvent by distillation to obtain 7.2 g (80% yield) of oily p-ethoxycarbonylphenyl 5-nitro-1,2,3,4-tetrahydro-1-naphthoate.

reactant | 5-nitro-1,2,3,4-tetrahydro-1-naphthoic acid | 5 g | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1)C(=O)O | C11H11NO4
reactant | phosphorus pentachloride | 4.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | p-ethoxycarbonylphenyl 5-nitro-1,2,3,4-tetrahydro-1-naphthoate | 7.2 g, 80% yield | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1)C(=O)OC1=CC=C(C=C1)C(=O)OCC | C20H19NO6
